US07176242B2
Step 2: Methyl 1-butyl-1H-indole-5-carboxylate
To a mixture of methyl 1H-indole-5-carboxylate (6.0 g) in methylsulfoxide (30 mL) was added potassium t-butoxide (3.88 g). The mixture was stirred at room temperature for 10 minutes at which time 1-iodobutane (1.8 mL) was added. The mixture was stirred at room temperature for 5 h then partitioned between water and methylene chloride. The layers were separated and the organic layer washed three times with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Column chromatography on silica gel (100 mL) using 10% ethyl acetate in hexanes as eluent to give 6.18 g of the title compound: 1H NMR (CDCl3) δ 0.923, 1.38, 1.83, 3.9, 4.14, 6.58, 7.15, 7.34, 7.9, 8.39.

reactant | methyl 1H-indole-5-carboxylate | 6.0 g | N1C=CC2=CC(=CC=C12)C(=O)OC | C10H9NO2
reactant | potassium t-butoxide | 3.88 g | CC(C)([O-])C.[K+]
reactant | 1-iodobutane | 1.8 mL | ICCCC | C4H9I
solvent | methylsulfoxide | 30 mL | CS(=O)C | C2H6OS
product | Methyl 1-butyl-1H-indole-5-carboxylate | 6.18 g | C(CCC)N1C=CC2=CC(=CC=C12)C(=O)OC | C14H17NO2
